US05840732
ii) Synthesis of 5-butylidene-3-[4-(3-trifluoroacetylimidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione
To a solution of 250 mg (0.6 mmol) of 3-[4-(3-trifluoroacetylimidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione and 54 μl (0.6 mmol) of n-butyraldehyde in 5 ml of ethanol, 6 μl (0.06 mmol) of piperidine was added, followed by refluxing for 1 hour. After the reaction mixture was cooled, the solvent was distilled off. The residue was dissolved in chloroform, washed with saturated aqueous sodium hydrogen carbonate and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent, n-hexane/ethyl acetate=2/1) to yield 200 mg (70.0%, light yellow oily substance) of the desired product.

reactant | 3-[4-(3-trifluoroacetylimidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | 0.6 mmol, 250 mg | FC(C(=O)C1=CN=C2N1C(=CC=C2)SCCCCN2C(SCC2=O)=O)(F)F | C16H14F3N3O3S2
reactant | n-butyraldehyde | 0.6 mmol, 54 μl | C(CCC)=O | C4H8O
reactant | piperidine | 0.06 mmol, 6 μl | N1CCCCC1 | C5H11N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 5-butylidene-3-[4-(3-trifluoroacetylimidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | C(CCC)=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C(=CN2)C(C(F)(F)F)=O)=O | C20H20F3N3O3S2
